US06090833
6-Chloro-2-cyclohexyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide
This compound is prepared analogously to the process described in Example 1c using 2-bromo-5-chloroindan-1-one and cyclohexanethiocarboxamide; melting point: 170-175° C. (dec.).

reactant | 2-bromo-5-chloroindan-1-one | BrC1C(C2=CC=C(C=C2C1)Cl)=O | C9H6BrClO
reactant | cyclohexanethiocarboxamide | C1(CCCCC1)C(N)=S | C7H13NS
product | 6-Chloro-2-cyclohexyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol hydrobromide | Br.ClC1=CC=2CC3C(N=C(S3)C3CCCCC3)(C2C=C1)O | InChI=1S/C16H18ClNOS.BrH/c17-12-6-7-13-11(8-12)9-14-16(13,19)18-15(20-14)10-4-2-1-3-5-10;/h6-8,10,14,19H,1-5,9H2;1H
